US06900215B2
2-Chloro-6-methoxypyridine (1.26 g, 8.81 mmol) was coupled to 2-(2-fluoro-5-nitrophenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane (3 g, 11.45 mmol) using the method in Example 47. Purification by chromatography on silica gel eluting with dichloromethane containing 20% isohexane then recrystallisation from toluene/isohexane gave 2-(2-fluoro-5-nitrophenyl)-6-methoxypyridine as a white solid: δH (400 MHz, CDCl3) 4.05 (3H, s), 6.81 (1H, d, J 8), 7.30 (1H, dd, J 10 and 9), 7.48-7.51 (1H, m), 7.69 (1H, t, J 8), 8.22-8.26 (1H, m), 9.08 (1H, dd, J 7 and 3).

reactant | 2-Chloro-6-methoxypyridine | 8.81 mmol, 1.26 g | ClC1=NC(=CC=C1)OC | C6H6ClNO
reactant | 2-(2-fluoro-5-nitrophenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 11.45 mmol, 3 g | FC1=C(C=C(C=C1)[N+](=O)[O-])B1OC(C(O1)(C)C)(C)C | C12H15BFNO4
product | 2-(2-fluoro-5-nitrophenyl)-6-methoxypyridine | FC1=C(C=C(C=C1)[N+](=O)[O-])C1=NC(=CC=C1)OC | C12H9FN2O3
